US05733476
112 g (249 mM) of (2-hydroxybenzyl)triphenylphosphonium bromide, 83 g (278 mM) of nonanoic anhydride, 104 g (1.03 mM) of triethylamine and 800 ml of toluene were placed in a 3 1-three-necked flask, followed by refluxing for 4.5 hours under stirring. After the reaction, the reaction mixture was left standing at room temperature to precipitate a crystal. The crystal was removed by filtration. The filtrate was concentrated and purified by silica gel column chromatography (eluent:toluene/hexane=1/1) to obtain 44 g of liquid 2-octylbenzofuran (Yield: 76.6%).

reactant | (2-hydroxybenzyl)triphenylphosphonium bromide | 249 mM, 112 g | [Br-].OC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | nonanoic anhydride | 278 mM, 83 g | C(CCCCCCCC)(=O)OC(CCCCCCCC)=O | C18H34O3
reactant | triethylamine | 1.03 mM, 104 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | 2-octylbenzofuran | Yield: 76.6% | C(CCCCCCC)C=1OC2=C(C1)C=CC=C2 | C16H22O
